US09421188B2
Preparation of Phentermine-Topiramate Pellet Capsules
The sustained-release pellet of topiramate as prepared in Example 12 and the phentermine pellet as prepared according to Formulation 19 in Example 11 were homogeneously mixed in certain weight ratio via content calculation, and then filled into capsules so that each capsule contained 23 mg of topiramate and 4.67 mg of phentermine hydrochloride (corresponding to 3.75 mg of phentermine).

reactant | topiramate | CC1(O[C@@H]2CO[C@@]3([C@H]([C@@H]2O1)OC(O3)(C)C)COS(=O)(=O)N)C | C12H21NO8S
reactant | phentermine | CC(C)(CC=1C=CC=CC1)N | C10H15N
reactant | topiramate | 23 mg | CC1(O[C@@H]2CO[C@@]3([C@H]([C@@H]2O1)OC(O3)(C)C)COS(=O)(=O)N)C | C12H21NO8S
reactant | phentermine hydrochloride | 4.67 mg | CC(C)(CC=1C=CC=CC1)N.Cl
product | Phentermine Topiramate | CC(C)(CC=1C=CC=CC1)N.CC1(O[C@@H]2CO[C@@]3([C@H]([C@@H]2O1)OC(O3)(C)C)COS(=O)(=O)N)C | InChI=1S/C12H21NO8S.C10H15N/c1-10(2)18-7-5-16-12(6-17-22(13,14)15)9(8(7)19-10)20-11(3,4)21-12;1-10(2,11)8-9-6-4-3-5-7-9/h7-9H,5-6H2,1-4H3,(H2,13,14,15);3-7H,8,11H2,1-2H3/t7-,8-,9+,12+;/m1./s1
